*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.50e-03[uF]/50[V]
* Murata P/N :GCM2162C1H152JA01
* Property : C = 1.50e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C1H152JA01 Port1 Port2
C01 Port1 N01 1.49e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 3.98e-11
R03 N02 N03 1.38e-02
L04 N03 N04 5.98e-11
R04 N03 N04 5.18e-01
L05 N04 N05 7.30e-11
R05 N04 N05 2.45e-02
C06 N05 N06 9.64e-09
L06 N05 N06 9.86e-12
R06 N05 N06 1.38e-01
C07 N06 N07 1.46e-09
L07 N06 N07 2.03e-11
R07 N06 N07 3.35e-01
C08 N07 N08 1.82e-12
L08 N07 N08 1.96e-10
R08 N07 N08 1.70e+02
C09 N08 Port2 1.48e-12
L09 N08 Port2 1.93e-10
R09 N08 Port2 1.00e+05
.ENDS GCM2162C1H152JA01
